US06590118B1
2N hydrogen chloride in diethyl ether (1 ml) was added to a solution of 4-(2-(tert-butoxycarbonylamino)benzyl)phthalic acid dimethyl ester (100 mg, 0.25 mmol) in methanol (1 ml). The mixture was stirred for 2 hours at room temperature and evaporated to dryness in vacuo. The crude product was recrystallized from diethyl ether/ethyl acetate to give light, golden crystals of 4-(2-aminobenzyl)phthalic acid dimethyl ester (yield: 69 mg (86%)). 1H—NMR (CDCl3) in ppm: δ 7.74 (1H,d); 7.60 (1H,s); 7.54 (1H,d); 7.27 (2H,d); 7.13 (1H,m); 7.05 (1H,d); 4.12 (2H,s); 3.8 (6H,2xs); 2.5 (3H,s). LC-MS: m/e 322 (M+Na), 300 (MH+).

reactant | hydrogen chloride | 2N | Cl | ClH
reactant | 4-(2-(tert-butoxycarbonylamino)benzyl)phthalic acid dimethyl ester | 0.25 mmol, 100 mg | COC(C=1C(C(=O)OC)=CC(=CC1)CC1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O | C22H25NO6
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
solvent | methanol | 1 ml | CO | CH4O
product | 4-(2-aminobenzyl)phthalic acid dimethyl ester | yield: 69 mg, 86% | COC(C=1C(C(=O)OC)=CC(=CC1)CC1=C(C=CC=C1)N)=O | C17H17NO4
